US07067517B2
Methyl-phenyl-carbamic acid 3-pyridin-2-yl-pyrazol-1-yl ester
The title compound was prepared from 1-hydroxy-3-(2-pyridyl)pyrazole and N-methyl-N-phenylcarbamoyl chloride applying the general procedure 8. The crude product was purified by flash chromatography (Quad flash 12, EtOAc-heptane) (90%, oil).

reactant | 1-hydroxy-3-(2-pyridyl)pyrazole | ON1N=C(C=C1)C1=NC=CC=C1 | C8H7N3O
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 3-pyridin-2-yl-pyrazol-1-yl ester | N1=C(C=CC=C1)C1=NN(C=C1)OC(N(C1=CC=CC=C1)C)=O | C16H14N4O2
